US05977152
(2E,4E,6E)-7-[4-(Trifluoromethyl)phenyl]-2,4,6-heptatrienal
(2E,4E,6E)-7-[4-(Trifluoromethyl)phenyl]-2,4,6-heptatrien-1-ol was treated with active manganese dioxide in the same manner as in Reference example 22 to obtain the title compound in a yield of 88%.

reactant | (2E,4E,6E)-7-[4-(Trifluoromethyl)phenyl]-2,4,6-heptatrien-1-ol | FC(C1=CC=C(C=C1)/C=C/C=C/C=C/CO)(F)F | C14H13F3O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (2E,4E,6E)-7-[4-(Trifluoromethyl)phenyl]-2,4,6-heptatrienal | yield of 88% | FC(C1=CC=C(C=C1)/C=C/C=C/C=C/C=O)(F)F | C14H11F3O
